US03950393
2-Amino-N,N-diethyl-5-methoxy-benzylamine was prepared from 2-amino-5-methoxy-benzyl alcohol, thionyl chloride and diethylamine analogous to Example 1. Proof of structure by IR-, UV- and NMR-spectra. IR-spectrum (methylenechloride):

reactant | 2-amino-5-methoxy-benzyl alcohol | NC1=C(CO)C=C(C=C1)OC | C8H11NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | C(C)NCC | C4H11N
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 2-Amino-N,N-diethyl-5-methoxy-benzylamine | NC1=C(CN(CC)CC)C=C(C=C1)OC | C12H20N2O
